US05574042
To a solution of 3-bromo-8-[2-chloro-6-(N-acetyl-N-methylamino) benzyloxy]-2-methylimidazo[1,2-a]pyridine (103 mg) in tetrahydrofuran (2 ml) was added lithium aluminum hydride (16 mg) in several portions at 5° C. After the addition, the mixture was stirred for 2 hours at 5° C. and then quenched with aqueous saturated ammonium chloride solution. The separated organic layer was washed with aqueous saturated ammonium chloride solution, dried, and concentrated in vacuo. The residue was purified by preparative thin-layer chromatography (ethyl acetate:n-hexane =1:2, V/V) to give 3-bromo-8-[2-chloro-6-(N-ethyl-N-methylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine (41 mg).

reactant | 3-bromo-8-[2-chloro-6-(N-acetyl-N-methylamino) benzyloxy]-2-methylimidazo[1,2-a]pyridine | 103 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2N(C)C(C)=O)Cl)C | C18H17BrClN3O2
reactant | lithium aluminum hydride | 16 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-bromo-8-[2-chloro-6-(N-ethyl-N-methylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine | 41 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2N(C)CC)Cl)C | C18H19BrClN3O
